US09303020B2
Preparation of 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-1H-imidazole.
To a mixture of 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-4,5-dihydro-1H-imidazole (0.65 g, 1.954 mmol) in DMSO (5 ml) in a 25 ml RB flask was added potassium carbonate (0.405 g, 2.93 mmol) and iodobenzene diacetate (0.755 g, 2.344 mmol). The reaction mixture was stirred at room temperature in darkness overnight. The reaction mixture was added water and extracted with ethyl acetate (3×25 ml). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified by using 40 g combiflash silica column with 11% methanol in chloroform as an eluent. The desired fractions were collected and concentrated to give the titled product (0.25 g, 39%). 1H NMR (400 MHz, CDCl3): δ 9.45 (s, 1H), 7.92-7.89 (m, 2H), 7.36-7.30 (m, 2H), 7.26-7.21 (m, 2H), 7.11-7.07 (m, 2H).

reactant | 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-4,5-dihydro-1H-imidazole | 1.954 mmol, 0.65 g | ClC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2NCCN2)C1F | C17H11ClF2N2O
reactant | potassium carbonate | 2.93 mmol, 0.405 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobenzene diacetate | 2.344 mmol, 0.755 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | water | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2-(5-chloro-4-fluoro-2-(4-fluorophenyl)benzofuran-3-yl)-1H-imidazole | 0.25 g, 39% | ClC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2NC=CN2)C1F | C17H9ClF2N2O
